US04287341
7,8-Dimethoxyquinazoline-2,4-dione (Xa)
Acetic acid (177.4 ml., 3.1 moles) was added to a vigorously stirred suspension of 3,4-dimethoxyanthranilic acid (436.5 g., 2.21 moles) in 10 liters of water. Then 2.24 liters of 20% potassium cyanate (5.53 moles) solution was gradually added and the mixture was stirred for one hour at 40° C. After cooling the reaction mixture to 20° C., 3.54 kg. sodium hydroxide pellets were added maintaining the temperature below 40° C. The reaction mixture was heated to 90° C. for 45 minutes and then slowly cooled in an ice bath. The sodium salt of the product was filtered, resuspended in 6 liters of water, acidified with concentrated hydrochloric acid (370 ml.), cooled and filtered to yield 404 grams (82%) of the product. Recrystallization from dimethylformamide gave colorless crystals, M.P. 314°-6° C.

reactant | Acetic acid | 3.1 moles, 177.4 ml | C(C)(=O)O | C2H4O2
reactant | 3,4-dimethoxyanthranilic acid | 2.21 moles, 436.5 g | COC1=C(C(C(=O)O)=CC=C1OC)N | C9H11NO4
reactant | potassium cyanate | 5.53 moles, 2.24 liters | [O-]C#N.[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 10 liters | O | H2O
product | 7,8-Dimethoxyquinazoline-2,4-dione | 404 grams, 82% | COC1=CC=C2C(NC(NC2=C1OC)=O)=O | C10H10N2O4
